US03969463
4-Chloro-6-fluoroquinaldine was reduced with rhodium on carbon to give 6-fluoro-2-methyltetrahydroquinoline.

reactant | 4-Chloro-6-fluoroquinaldine | ClC1=CC(=NC2=CC=C(C=C12)F)C | C10H7ClFN
catalyst | rhodium on carbon | [Rh] | Rh
product | 6-fluoro-2-methyltetrahydroquinoline | FC=1C=C2CCC(NC2=CC1)C | C10H12FN
